US09108969B2
Step B: Preparation of 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
To tert-butyl 2-(7-(3-cyano-4-cyclohexylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (51.4 mg, 0.106 mmol) was added a solution of DL-cysteine (19.87 mg, 0.159 mmol) in trifluoroacetic acid (1 mL). The mixture was stirred at room temperature for 15 min. The reaction mixture was poured into an ice water to form a solid. The solid was filtered and washed with water to provide the title compound as an off-white solid (41.8 mg). LCMS m/z=429.6 [M+H]+; 1H NMR (400 MHz, DMSO-d6) α ppm 1.19-1.31 (m, 1H), 1.32-1.55 (m, 4H), 1.69-1.75 (m, 1H), 1.75-1.85 (m, 4H), 2.14-2.25 (m, 1H), 2.56 (dd, J=12.00, 8.00 Hz, 1H), 2.67 (dd, J=12.00, 8.00 Hz, 1H), 2.71-2.78 (m, 1H), 2.79-2.90 (m, 1H), 3.57 (t, J=7.39 Hz, 1H), 3.87-3.99 (m, 1H), 4.02-4.16 (m, 1H), 5.08 (s, 2H), 6.00 (s, 1H), 6.76 (dd, J=8.72, 2.40 Hz, 1H), 7.05 (d, J=2.40 Hz, 1H), 7.18 (d, J=8.72 Hz, 1H), 7.51 (d, J=8.21 Hz, 1H), 7.72 (dd, J=8.21, 1.64 Hz, 1H), 7.81 (d, J=1.52 Hz, 1H), 12.26 (bs, 1H).

reactant | tert-butyl 2-(7-(3-cyano-4-cyclohexylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.106 mmol, 51.4 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=CC1C1CCCCC1 | C31H36N2O3
reactant | DL-cysteine | 0.159 mmol, 19.87 mg | NC(CS)C(=O)O | C3H7NO2S
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 41.8 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1C1CCCCC1 | C27H28N2O3
